US08703941B2
Into a 25-mL round-bottom flask containing a solution of 1-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine (400 mg, 1.24 mmol, 1.00 equiv) in methanol (15 mL) was added HCHO (37%, 0.5 mL) and stirred for 1 h at room temperature. Then NaBH3CN (152 mg, 2.42 mmol, 2.00 equiv) was added and the resulting solution was stirred for additional 2 h at ambient temperature and diluted with EtOAc, washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (450 mg) was purified by Prep-HPLC with the following conditions (SHIMADZU): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% NH4HCO3 and CH3CN (30% CH3CN up to 64.0% in 19 min); Flow rate, 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the corresponding 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (380 mg, 87%) as a white solid. MS (ES, m/z): 351 [M+H]+; 1H NMR (300 MHz, CD3OD): δ 4.95 (1H, d), 4.15-4.05 (1, M), 3.01-2.96 (4H, m), 2.59-2.40 (2H, m), 2.32 (6H, s), 2.29-2.23 (3H, m), 1.96 (2H, d), 1.56-1.40 (2H, m), 1.30-1.21 (2H, m).

reactant | 1-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 1.24 mmol, 400 mg, 1.00 equiv | ClC1=NC=2SC=3CCCC3C2C(=N1)NC1CCC(CC1)N | C15H19ClN4S
reactant | HCHO | 0.5 mL | C=O | CH2O
reactant | NaBH3CN | 2.42 mmol, 152 mg, 2.00 equiv | [BH3-]C#N.[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 380 mg, 87% | ClC1=NC=2SC=3CCCC3C2C(=N1)NC1CCC(CC1)N(C)C | C17H23ClN4S
